US05631373
5-Methyl-3-nitro-1,2-phenylenediamine.
The procedure of Gillespie et al., J. Org. Chem. 25:942 (1960) was adopted as follows. A dark black solution of 4-methyl-2,6-dinitroaniline (0.100 g, 0.561 mmol, Aldrich, used as received) in 6.66% aq. (NH4)2S (3.3 mL, prepared from 20% aq.(NH4)2S solution supplied by Aldrich) and ethanol (3.5 mL) was refluxed for 45 min. It was then cooled to 28° C. and the solvents were removed as much as possible under vacuum (inside the hood to avoid the stench of ammonium sulfide). The slurry so obtained was diluted with water (10 mL) and the resulting red solid was filtered and dried under vacuum to obtain 0.072 g (85%) solid as a red powder, which was used as such for the next reaction. 1H NMR (acetone-d6): 2.205 (s, 3H), 6.342 (br s, 2H), 6.622 (s, 1H), 7.571 (s, 1H).

reactant | 4-methyl-2,6-dinitroaniline | 0.561 mmol, 0.100 g | CC1=CC(=C(N)C(=C1)[N+](=O)[O-])[N+](=O)[O-] | C7H7N3O4
solvent | ethanol | 3.5 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
product | 5-Methyl-3-nitro-1,2-phenylenediamine | 0.072 g, 85% | CC=1C=C(C(=C(C1)N)N)[N+](=O)[O-] | C7H9N3O2
